US06974870B2
To a stirred solution of cyanothioacetamide (2.20 g, 22 mmol) and 6-methyl-2,4-heptanedione (3.12 g, 22 mmol) in anhydrous EtOH (40 ML) was added triethylamine (0.4 mL) and the reaction was heated at 50° C. for 1 h before it was allowed to cool to room temperature. Filtration and washing of the precipitates with EtOH gave 6-isobutyl-2-mercapto-4-methylnicotinonitrile as a yellow solid (2.8 g, 61%).

reactant | cyanothioacetamide | 22 mmol, 2.20 g | C(#N)CC(=S)N | C3H4N2S
reactant | 6-methyl-2,4-heptanedione | 22 mmol, 3.12 g | CC(CC(CC(C)=O)=O)C | C8H14O2
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | CCO | C2H6O
product | 6-isobutyl-2-mercapto-4-methylnicotinonitrile | 2.8 g, 61% | C(C(C)C)C1=NC(=C(C#N)C(=C1)C)S | C11H14N2S
